US07071340B2
45 ml of dimethylformamide and then 1.15 ml (9.95 mmol) of 2-chloromethyl-3-chloro-1-propene are added under argon to 717 mg (3.98 mmol) of methyl 3-formyl-4-hydroxybenzoate as a mixture with 1.055 g (9.95 mmol) and 440 mg (1.195 mmol) of tetrabutylammonium iodide. The solution is stirred for 26 hours and then water is added. In order to break the emulsion, the pH is brought to 7 using a 1N hydrochloric acid solution. The aqueous phase is extracted several times with ether and then the combined organic phases are washed several times with water and with brine. After drying over magnesium sulfate and concentrating under vacuum, the crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 20/80) to give 560 mg (52%) of methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate in the form of a white solid; 1H NMR (300 MHz, CDCl3): 10.44 (s, 1H), 8.45 (d, J=2.4 Hz, 1H), 8.18 (dd, J=2.4 Hz and 8.4 Hz, 1H), 7.04 (d, J=8.4 Hz, 1H), 5.44 and 5.39 (2s, 2H), 4.79 (s, 2H), 4.19 (s, 2H), 3.87 (s, 3H).

reactant | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
reactant | 2-chloromethyl-3-chloro-1-propene | 9.95 mmol, 1.15 ml | ClCC(=C)CCl | C4H6Cl2
reactant | methyl 3-formyl-4-hydroxybenzoate | 3.98 mmol, 717 mg | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | tetrabutylammonium iodide | 1.195 mmol, 440 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate | 560 mg, 52% | ClCC(COC1=C(C=C(C(=O)OC)C=C1)C=O)=C | C13H13ClO4
